US05753664
3,5-Dimethyl-2-[4-[4-[(1-methyl-1H-tetrazol-5-yl)thiomethyl]benzoyl]benzylthio]-4(3H)-quinazolinone
A solution of 3,5-dimethyl-2-mercapto-4(3H)-quinazolinone (1.03 g), 4,4'-bis (bromomethyl)benzophenone (1.75 g), 1-methyl-5-mercapto-1H-tetrazole (700 mg), and 1N-aqeuous sodium hydroxide solution (5.5 ml) in DMF (20 ml) was stirred at room temperature for 30 minutes. This reaction mixture was concentrated and the residue was dissolved in ethyl acetate, washed with water, dried, and concentrated. The residue was purified by silica gel column chromatography (chloroform: methanol: aqueous ammonia=50:1:0.1) and crystallized from methanol to provide the title compound as colorless solid (603 mg).

reactant | 3,5-dimethyl-2-mercapto-4(3H)-quinazolinone | 1.03 g | CN1C(=NC2=CC=CC(=C2C1=O)C)S | C10H10N2OS
reactant | 4,4'-bis (bromomethyl)benzophenone | 1.75 g | BrCC1=CC=C(C(=O)C2=CC=C(C=C2)CBr)C=C1 | C15H12Br2O
reactant | 1-methyl-5-mercapto-1H-tetrazole | 700 mg | CN1N=NN=C1S | C2H4N4S
reactant | sodium hydroxide | 5.5 ml | [OH-].[Na+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 3,5-Dimethyl-2-[4-[4-[(1-methyl-1H-tetrazol-5-yl)thiomethyl]benzoyl]benzylthio]-4(3H)-quinazolinone | 603 mg | CN1C(=NC2=CC=CC(=C2C1=O)C)SCC1=CC=C(C=C1)C(C1=CC=C(C=C1)CSC1=NN=NN1C)=O | C27H24N6O2S2
